US04119710
1-(4'-Amino-3'-bromo-5'-fluoro-phenyl)-2-cyclohexylamino-ethanol,
m.p. of the hydrochloride: 191°-195° C. (decomp.), was prepared from 4'-amino-3'-bromo-2-cyclohexylamino-5'-fluoroacetophenone and sodium borohydride analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-2-cyclohexylamino-5'-fluoroacetophenone | NC1=C(C=C(C=C1F)C(CNC1CCCCC1)=O)Br | C14H18BrFN2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-bromo-5'-fluoro-phenyl)-2-cyclohexylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC1CCCCC1)O)Br | C14H20BrFN2O
